US08980911B2
3,5-Dichloro-4-({4-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[3,2-c]pyridin-1-yl}carbonyl)-N-(propan-2-yl)benzamide (Compound No. 106) was prepared using N-(1H-pyrrolo[3,2-c]pyridin-4-yl)cyclopropane carboxamide and 2,6-dichloro-4-[(propan-2-yl)carbamoyl]benzoic acid.

reactant | N-(1H-pyrrolo[3,2-c]pyridin-4-yl)cyclopropane carboxamide | N1C=CC=2C(=NC=CC21)NC(=O)C2CC2 | C11H11N3O
reactant | 2,6-dichloro-4-[(propan-2-yl)carbamoyl]benzoic acid | ClC1=C(C(=O)O)C(=CC(=C1)C(NC(C)C)=O)Cl | C11H11Cl2NO3
product | 3,5-Dichloro-4-({4-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[3,2-c]pyridin-1-yl}carbonyl)-N-(propan-2-yl)benzamide | ClC=1C=C(C(=O)NC(C)C)C=C(C1C(=O)N1C=CC=2C(=NC=CC21)NC(=O)C2CC2)Cl | C22H20Cl2N4O3
